US05132461
1st Stage: 1-chloro-2-nitro-4-benzenesulfonamido-benzene
172.5 g (1 mol) of 4-amino-1-chloro-2-nitro-benzene are dissolved in 400 ml pyridine with heating. 193 g (1.09 mol) of benzene sulfochloride are slowly added dropwise, followed by heating for 1 hour at 120° C. (bath temperature). Subsequently, the solution is cast onto ice, and the 1-chloro-2-nitro-4-benzene-sulfonamido-benzene is evacuated in a vacuum. The compound is recrystallized from ethanol/water.

reactant | 4-amino-1-chloro-2-nitro-benzene | 1 mol, 172.5 g | NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
reactant | benzene sulfochloride | 1.09 mol, 193 g | S(=O)(=O)(O)Cl.C1=CC=CC=C1
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 1-chloro-2-nitro-4-benzenesulfonamido-benzene | ClC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O4S
